US08198453B2
To a solution of (S)-tert-butyl 4-((R)-5-hydroxy-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (254 mg, 0.54 mmol) in anhydrous DMF (8 mL) at 0° C. under N2 was added NaH (43 mg, 1.08 mmol). After stirred at this temperature for 1 hr, the reaction was quenched with aq. NH4Cl and then evaporated to dryness. The residue was dissolved in EtOAc and H2O, the separated aqueous phase was extracted with EtOAc. The combined organic phases were washed with H2O, brine, and dried over Na2SO4, filtered, and evaporated. The residue was purified on silica gel column to afford (S)-tert-butyl 2,2-dimethyl-4-(((R)-tetrahydro-2H-pyran-3-yl)methyl)oxazolidine-3-carboxylate (136 mg, 84%).

reactant | (S)-tert-butyl 4-((R)-5-hydroxy-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.54 mmol, 254 mg | OCCC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1 | C23H37NO7S
reactant | NaH | 1.08 mmol, 43 mg | [H-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (S)-tert-butyl 2,2-dimethyl-4-(((R)-tetrahydro-2H-pyran-3-yl)methyl)oxazolidine-3-carboxylate | 136 mg, 84% | CC1(OC[C@@H](N1C(=O)OC(C)(C)C)C[C@@H]1COCCC1)C | C16H29NO4
